* source BNEZ
R_R1         N14760 OUT  10k TC=0,0 
R_R2         0 N14760  12k TC=0,0 
L_L1         N15182 OUT  56u  
C_C1         0 OUT  33u  TC=0,0 
C_C2         IN N15292  1u  TC=0,0 
X_U1         N15229 N149361 N14760 0 N15144 N15115 N15292 N149367 LM25085_TRANS
+  
R_R3         N149361 N149367  510R TC=0,0 
R_R4         IN N15229  1.5k TC=0,0 
C_C3         IN N15229  1n  TC=0,0 
D_D1         0 N15182 D1N3501 
X_M1         N15182 N15115 N15144 SI1031R
R_R5         IN N15144  0.01R TC=0,0 
C_C4         0 IN  10u  TC=0,0 
C_C5         N14760 OUT  330p  TC=0,0 
V_V1         IN 0 32Vdc
